US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-formyl-N-(2-methoxyphenyl)benzenesulfonamide (63 mg, 0.12 mmol) and hydroxyamine hydrochloride (9.5 mg, 0.132 mmol) were dissolved in ethanol (2 ml) to which were subsequently added anhydrous sodium carbonate (14 mg, 0.132 mmol) and water (1 ml). After 1.5 hours of stirring at room temperature, ethanol was removed by evaporation, and the resulting residue was mixed with water (10 ml) to collect crystals by filtration. The thus collected crystals were washed with water and hexane, dissolved in methylene chloride (50 ml) and then dried on anhydrous sodium carbonate. Thereafter, the solvent was removed by evaporation to obtain 65 mg (100%) of the title compound in the form of colorless powder.

reactant | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-formyl-N-(2-methoxyphenyl)benzenesulfonamide | 0.12 mmol, 63 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)C=O)C2=C(C=CC=C2)OC)C=C1 | C28H29FN2O5S
reactant | hydroxyamine hydrochloride | 0.132 mmol, 9.5 mg | Cl.ON
reactant | sodium carbonate | 0.132 mmol, 14 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide | 65 mg, 100% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CCC(C=C2)=NO)C2=C(C=CC=C2)OC)C=C1 | C27H30FN3O5S
